US08604074B2
Step 2. Synthesis of 3-(3,6-Dibromo-9H-carbazol-9-yl)-2-hydroxypropanoic acid
NaOH (0.64 mL, 1M solution in H2O) was added to a suspension of methyl 3-(3,6-dibromo-9H-carbazol-9-yl)-2-hydroxypropanoate (0.055 g, 0.129 mmol) in EtOH (2.6 mL) and the reaction was stirred at ambient temperature for 2.5 h. The reaction was concentrated in vacuo and the residue was acidified with 1N aqueous HCl. The mixture was extracted with EtOAc (3×), and the combined organics were washed with saturated aqueous NaCl, dried over Na2SO4, filtered, and concentrated in vacuo to afford the desired product as a white solid (53 mg, 99%).

reactant | NaOH | 1M, 0.64 mL | [OH-].[Na+]
reactant | methyl 3-(3,6-dibromo-9H-carbazol-9-yl)-2-hydroxypropanoate | 0.129 mmol, 0.055 g | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)CC(C(=O)OC)O | C16H13Br2NO3
solvent | EtOH | 2.6 mL | CCO | C2H6O
product | 3-(3,6-Dibromo-9H-carbazol-9-yl)-2-hydroxypropanoic acid | 53 mg, 99% | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)CC(C(=O)O)O | C15H11Br2NO3
